US07713994B2
4-[(4-Piperidin-1-ylmethyl-phenylamino)-methylene]-1,4-dihydro-2H-isoquinolin-3-one
A solution of 0.400 g (1.98 mmol) of (4E)-4-[(Dimethylamino)methylene]-1,4-dihydro-3(2H)-isoquinolinone and 0.300 g (1.58 mmol) of 4-piperidin-1-ylmethyl-phenylamine in 4 mL of N,N-dimethylformamide (DMF) is heated at 125° C. for 3 h. The solvent is removed and the residue is slurried with Et2O and filtered. The Et2O soluble material is evaporated, redissolved in a small volume of PhCH3 and chilled. A precipitate is collected, boiled with MeOH (ca 20 mL) and filtered. The filtrate is evaporated and the residue is recrystallized from a minimum volume of MeOH. The resulting solid is collected, washed with cold MeOH and Et2O and dried in vacuo to yield 0.087 g (13%) of yellow crystals: mp 188-189° C. (dec); 1H NMR (DMSO-d6) δ 11.5 (d, 1H, J=11.8 Hz), 8.04 (d, 1H, J=11.8 Hz), 7.66 (m, 2H), 7.20 (s, 5H), 7.08 (m, 2H), 4.41 (s, 2H), 3.34 (s, 2H), 2.29 (s(br), 4H), 1.46 (m, 6H); HRMS (ESI) m/e calcd for C22H25N3O 348.20704. found 348.20704 (M+H)+1.

reactant | (4E)-4-[(Dimethylamino)methylene]-1,4-dihydro-3(2H)-isoquinolinone | 1.98 mmol, 0.400 g | CN(C)\C=C/1\C(NCC2=CC=CC=C12)=O | C12H14N2O
reactant | 4-piperidin-1-ylmethyl-phenylamine | 1.58 mmol, 0.300 g | N1(CCCCC1)CC1=CC=C(C=C1)N | C12H18N2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-[(4-Piperidin-1-ylmethyl-phenylamino)-methylene]-1,4-dihydro-2H-isoquinolin-3-one | 0.087 g, 13% | N1(CCCCC1)CC1=CC=C(C=C1)NC=C1C(NCC2=CC=CC=C12)=O | C22H25N3O
